US09108969B2
Step F: Preparation of 2-(6-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-benzo[d]pyrrolo[1,2-a]imidazol-3-yl)acetic Acid
Ethyl 2-(6-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-benzo[d]pyrrolo[1,2-a]imidazol-3-yl)acetate (0.109 g, 0.224 mmol) was dissolved in dioxane (2.5 mL) and 1.0 M aqueous lithium hydroxide (0.672 mL, 0.672 mmol) was added. The reaction mixture was stirred at room temperature for 1.5 h and then acidified (pH 2) with 1.0 M HCl. The reaction mixture was extracted three times with EtOAc and the combined extracts were dried over sodium sulfate, filtered and concentrated under reduced pressure to provide the title compound (103 mg). LCMS m/z=459.3 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.54-1.65 (m, 2H), 1.67-1.79 (m, 2H), 1.80-1.91 (m, 2H), 2.05-2.14 (m, 2H), 2.42-2.53 (m, 1H), 2.89 (d, J=7.1 Hz, 1H), 2.95-3.22 (m, 2H), 3.33-3.43 (m, 1H), 3.78-3.87 (m, 1H), 4.03-4.12 (m, 1H), 4.14-4.23 (m, 1H), 5.09 (s, 2H), 6.88 (d, J=2.4 Hz, 1H), 6.97 (dd, J=8.8, 2.5 Hz, 1H), 7.48 (d, J=8.2 Hz, 1H), 7.57 (d, J=8.1 Hz, 1H), 7.62 (d, J=8.8 Hz, 1H), 7.68 (s, 1H).

reactant | Ethyl 2-(6-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-benzo[d]pyrrolo[1,2-a]imidazol-3-yl)acetate | 0.224 mmol, 0.109 g | C1(CCCC1)C1=C(C=C(COC=2C=CC3=C(N=C4N3CCC4CC(=O)OCC)C2)C=C1)C(F)(F)F | C27H29F3N2O3
reactant | lithium hydroxide | 0.672 mmol, 1.0 M, 0.672 mL | [OH-].[Li+]
reactant | HCl | 1.0 M | Cl | ClH
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
product | 2-(6-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-benzo[d]pyrrolo[1,2-a]imidazol-3-yl)acetic Acid | 103 mg | C1(CCCC1)C1=C(C=C(COC=2C=CC3=C(N=C4N3CCC4CC(=O)O)C2)C=C1)C(F)(F)F | C25H25F3N2O3
